US04036970
1,3-dibromo-2-propanol (2.18 g.) is added to a stirred suspension of the salt obtained by mixing 2.7 g. benzyl mercaptan and sodium hydride (56% dispersion in mineral oil; 900 mg.) in 50 ml. dry tetrahydrofuran. After 2 hours at room temperature, the solvent is removed and 20 ml. of water is added to the residue. The resultant aqueous mixture is extracted with ether and the extracts washed with water, dried over magnesium sulfate and evaporated to yield 1,3-bis(benzylthio)-2-propanol.

reactant | 1,3-dibromo-2-propanol | 2.18 g | BrCC(CBr)O | C3H6Br2O
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydride | 900 mg | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,3-bis(benzylthio)-2-propanol | C(C1=CC=CC=C1)SCC(CSCC1=CC=CC=C1)O | C17H20OS2
